US05200169
To a solution of 4-pentynoic acid (308 mg, 3.1 mmol) in toluene (7.0 mL) under N2 was added Bu3SnH (1.7 mL, 6.3 mmol) followed by Et3B (0.30 mL, 1.0M solution in hexanes, 0.30 mmol). The resulting solution was stirred at room temperature for 13/4 hours after which the solvent was evaporated under reduced pressure. The resulting oil was dissolved in EtOAc and washed with saturated NaCl. The EtOAc layer was dried over MgSO4, filtered and concentrated under reduced pressure to afford 2.0 gr of crude product. To a solution of the crude product in anhydrous THF (15 mL) was added a solution of 2,3,5,6-tetrafluorophenol (554 mg, 3.4 mmol) in THF (1.0 mL) followed by a solution of dicyclohexylcarbodiimide (652 mg, 3.2 mmol) in THF (1.0 mL). The resulting solution was stirred at room temperature overnight during which time a white precipitate formed. The THF was evaporated under reduced pressure and the residue was suspended in CH3CN. The insoluble precipitate was filtered off and the filtrate was purified via flash chromatography (silica gel, 25 mm×90 mm, 5% EtOAc/hexanes) to afford 833 mg (50%) of 2,3,5,6-tetrafluorophenyl 5-(tri-n-butylstannyl)-4-pentenoate as a mixture of isomers. 1H NMR (200 MHz, CDCl3) S 6.90 (m, 1H), 6.20 (m, 2H), 2.78 (bq, 2H, J=7 Hz), 2.60 (m, 2H), 1.65-1.20 (m, 18H), 1.90 (t, 9H, J=8 Hz); 13CNMR (50.3 Hz, CDCl3) S 169.75, 145.95, 145.80, 132.14, 130.77, 106.70 (t, J=23 Hz), 103.63 (t, J=23 Hz), 34.04, 33.13, 32.62, 32.23, 29.43, 27.63, 13.96, 10.53, 9.71.

reactant | 4-pentynoic acid | 3.1 mmol, 308 mg | C(CCC#C)(=O)O | C5H6O2
reactant | Bu3SnH | 6.3 mmol, 1.7 mL | CCCC[SnH](CCCC)CCCC
reactant | Et3B | 0.30 mmol, 1.0M, 0.30 mL | B(CC)(CC)CC | C6H15B
reactant | 2,3,5,6-tetrafluorophenol | 3.4 mmol, 554 mg | FC1=C(C(=C(C=C1F)F)F)O | C6H2F4O
reactant | dicyclohexylcarbodiimide | 3.2 mmol, 652 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | toluene | 7.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 2,3,5,6-tetrafluorophenyl 5-(tri-n-butylstannyl)-4-pentenoate | 833 mg, 50% | C(CCC)[Sn](C=CCCC(=O)OC1=C(C(=CC(=C1F)F)F)F)(CCCC)CCCC | InChI=1S/C11H7F4O2.3C4H9.Sn/c1-2-3-4-8(16)17-11-9(14)6(12)5-7(13)10(11)15;3*1-3-4-2;/h1-2,5H,3-4H2;3*1,3-4H2,2H3;
